data/specific_train_final.csv
"CCOC(CO)[O:20][O:21]N=O>>CCOC(CO)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC([CH2:10])O[N+](=O)[O-].[O:20][O]>>CC([CH2:10][O:20][O])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C=C)(C(=O)OO)O[O:20].[N:10]=O>>CC(C=C)(C(=O)OO)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC[CH:10]CO.[O:20][O]>>CCCC[CH:10](CO)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C)OC(=O)CO[O:20].[N+](=O)([O:10])[O]>>CC(C)(C)OC(=O)CO[O:20][O:10][N+](=O)[O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:4][C:3](=[CH:5][O:6][H:7])[C:2]([CH3:1])([CH2:10][O:11][N+:12](=[O:14])[O-:13])[O:8][O:9]>>[H:4][C:3](=[CH:5][O:6])[C:2]([CH3:1])([CH2:10][O:11][N+:12](=[O:14])[O-:13])[O:8][O:9][H:7] 9-9,7; 6,7-9,7; 6,7-6",Room Temperature,Propagation,abstraction
"C([O:20][O:21]N=O)(Cl)(Cl)Cl>>C([O:20])(Cl)(Cl)Cl.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][CH:21](C)C1=CC(=CC(=C1)C)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].C[CH:21]C1=CC(=CC(=C1)C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH:21](C)C(C)(C)C.[Cl:10]>>[H:20][Cl:10].C[CH:21]C(C)(C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CC(COCO[O:10])O>>[H:20][O:10]OCOCC(C)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(=CCO[O:20])CO[N+](=O)[O-].[N:10]=O>>CC(=CCO[O:20][N:10]=O)CO[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CSCO[O:20].[N+](=O)([O-])[O:10]>>CSCO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH:21]([O:22])OC.[OH:10].[O][O]>>[H:20][OH:10].CO[CH:21]=[O:22].[O][O] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"C[C:10](C[O:20][N+:21](=O)[O-])C(CO)O>>C[C:10]1(C[O:20]1)C(CO)O.[N+:21](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC(C)(C)OCC[O:21][O:20][O].[N+](=O)[O-]>>CC(C)(C)OCC[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][CH2:21]OC.[OH:10]>>[H:20][OH:10].CO[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C(C=O)O[O:20])O[N+](=O)[O-].[N:10]=O>>CC(C(C=O)O[O:20][N:10]=O)O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:7][C:6]([H:8])[CH:5]=[C:2]([CH3:1])[CH2:3][Cl:4]>>[H:7][C:6](=[CH:5][C:2]([CH3:1])[CH2:3][Cl:4])[H:8] 6-6,5; 2,5-6,5; 2,5-2",Room Temperature,Propagation,resonance
"[H:20][CH2:21]OC.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CO[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CC(C)(C)OCO[O:10]>>[H:20][O:10]OCOC(C)(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1=C(C=CC=C1)C[O:20][O:21]N=O>>CC1=C(C=CC=C1)C[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:1][O:2][CH:3]([C:6](=[O:14])[C:7]([CH3:13])([CH2:8][OH:9])[O:10][O:11][H:12])[O:4][O:5]>>[H:1][O:5][O:4][CH:3]([C:6](=[O:14])[C:7]([CH3:13])([CH2:8][OH:9])[O:10][O:11][H:12])[O:2] 5-1,5; 1,2-1,5; 1,2-2",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].C1=CC(C2C(C1OO2)O)O[O:10]>>[H:20][O:10]OC1C=CC2C(C1OO2)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:9][CH2:8][CH:7]([CH2:10][OH:11])[O:6][O:5][O:4][N+:2](=[O:1])[O-:3]>>[CH3:9][CH2:8][CH:7]([CH2:10][OH:11])[O:6][O:5][O:4].[N+:2](=[O:1])[O-:3] 2,4-2; 2,4-4",Room Temperature,Initiation,homolyze
"CC(CC(=O)C)[O:20][O:21]N=O>>CC(CC(=O)C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC([O:20])OC(C)(C)C.[N+:10](=O)[O-]>>CC(OC(C)(C)C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC(C)(C(CO[O:10])O)O>>[H:20][O:10]OCC(C(C)(C)O)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CC1=C(C(=CC=C1)CO[O:10])C>>[H:20][O:10]OCC1=CC=CC(=C1C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(C1=CC=CC=C1)[O:20][O:21][O].[N+](=O)[O-]>>CC(C)(C1=CC=CC=C1)[O:20].[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:10][CH2:9][CH2:8][CH2:7][CH:6]([CH3:11])[O:5][O:4][O:3][N+:2](=[O:12])[O-:1]>>[CH3:10][CH2:9][CH2:8][CH2:7][CH:6]([CH3:11])[O:5][O:4][O:3].[N+:2](=[O:12])[O-:1] 3,2-2; 3,2-3",Room Temperature,Initiation,homolyze
"CCC[O:21][O:20][O].[N+](=O)[O-]>>CCC[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC[CH:10]C(C)O.[O:20][O]>>CCC[CH:10](C(C)O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C1=CC=C(C=C1)CC[O:20].[N+:10](=O)[O-]>>C1=CC=C(C=C1)CC[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
